US07714145B2
2,2′-diamino-9,9′-spirobifluorene (3.46 g, 10 mmol), iodobenzene (6.8 mL, 60 mmol), Pd(OAc)2 (0.112 g, 0.5 mmol), sodium-tert-butoxide (14.4 g, 150 mmol) and tri-tert-butylphosphine (20 mL, 0.05 M in toluene, 1.0 mmol) were mixed in a flask containing with toluene (100 mL). The mixture was refluxed overnight. The solution was quenched with water and extracted twice with chloroform. The combined organic extracts were dried over MgSO4 and concentrated by rotary evaporation. Column chromatography on silica gel (hexane/chloroform=4/1) afforded products [2,2′-Bis(diphenylamino)-9,9′-spirobifluorene, hereinafter named as 22DPSF] as a white solid (4.5 g, 70%).

reactant | 2,2′-diamino-9,9′-spirobifluorene | 10 mmol, 3.46 g | NC1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC(=CC13)N | C25H18N2
reactant | iodobenzene | 60 mmol, 6.8 mL | IC1=CC=CC=C1 | C6H5I
reactant | sodium-tert-butoxide | 150 mmol, 14.4 g | CC(C)([O-])C.[Na+]
reactant | tri-tert-butylphosphine | 1.0 mmol, 0.05 M, 20 mL | C(C)(C)(C)P(C(C)(C)C)C(C)(C)C | C12H27P
catalyst | Pd(OAc)2 | 0.5 mmol, 0.112 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | toluene | 100 mL | C1(=CC=CC=C1)C | C7H8
product | 22DPSF | C1(=CC=CC=C1)N(C1=CC=2C3(C4=CC=CC=C4C2C=C1)C1=CC=CC=C1C=1C=CC(=CC13)N(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C49H34N2
